US08039458B2
Diethyl 2-(3-(2-hydroxyethoxy)propanimidamidooxy)but-2-enedioate.
Treatment of 3-(2-hydroxyethoxy)propanenitrile (9.00 g, 78.1 mmol) with 50% aqueous hydroxylamine (5.16 g, 78.1 mmol) followed by reaction with diethyl acetylenedicarboxylate (13.30 g, 78.1 mmol) gave 21.53 g (86% yield) of the title material as a light yellow oil after chromatography. 1HNMR 400 MHz (CDCl3) δ (ppm): (mixture of E/Z isomers ratio˜3:1) 1.25-1.4 (6H, 4×t), 2.42-2.49 (2H, m), 3.60-3.79 (6H, m), 4.16-4.21 (2H, m), 4.33-4.38 (2H, m), 5.3 and 5.65 (2H, two broad s), 5.77 and 5.83 (1H, 2×s). MS (ESI+) m/e 319 [M+H+].

reactant | 3-(2-hydroxyethoxy)propanenitrile | 78.1 mmol, 9.00 g | OCCOCCC#N | C5H9NO2
reactant | hydroxylamine | 78.1 mmol, 5.16 g | NO | H3NO
reactant | diethyl acetylenedicarboxylate | 78.1 mmol, 13.30 g | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
product | Diethyl 2-(3-(2-hydroxyethoxy)propanimidamidooxy)but-2-enedioate | 21.53 g, 86% yield | OCCOCCC(NOC(C(=O)OCC)=CC(=O)OCC)=N | C13H22N2O7
